US07576215B2
PHENYL[8-(TRIFLUOROMETHYL)-4-(3-{[3-(TRIFLUOROMETHYL)BENZYL]OXY}PHENYL)QUINOLIN-3-YL]-METHANONE
The title compound was prepared from [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 1-Bromomethyl-3-trifluoromethyl-benzene following the procedure of Example 478: MS (ESI) m/z 552.

reactant | [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H14F3NO2
reactant | 1-Bromomethyl-3-trifluoromethyl-benzene | BrCC1=CC(=CC=C1)C(F)(F)F | C8H6BrF3
product | PHENYL[8-(TRIFLUOROMETHYL)-4-(3-{[3-(TRIFLUOROMETHYL)BENZYL]OXY}PHENYL)QUINOLIN-3-YL]-METHANONE | C1(=CC=CC=C1)C(=O)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)OCC1=CC(=CC=C1)C(F)(F)F)C(F)(F)F | C31H19F6NO2
